US07723368B2
Into a mixture of 3-bromobenzaldehyde (20 g, 108.1 mmol) and diethyl phosphonate (14.2 g, 108.1 mmol) was added triethylamine (0.44 g, 4.32 mmol) and the mixture was stirred at 40° C. for 72 hours. Purification by ISCO (hexane/EtOAc 1/1) gave diethyl[(3-bromophenyl)(hydroxy)methyl]phosphonite (32.62 g); MS m/e (M)+ 322.

reactant | 3-bromobenzaldehyde | 108.1 mmol, 20 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | diethyl phosphonate | 108.1 mmol, 14.2 g | P(OCC)(OCC)=O | C4H11O3P
catalyst | triethylamine | 4.32 mmol, 0.44 g | C(C)N(CC)CC | C6H15N
product | diethyl[(3-bromophenyl)(hydroxy)methyl]phosphonite | 32.62 g | C(C)OP(OCC)C(O)C1=CC(=CC=C1)Br | C11H16BrO3P
